US07687490B2
The crude crystal of the silver salt of 4-hydroxymethyl-5-[(Z)-2-mercaptoethen-1-yl]thiazole (283 mg) was added to 10 ml of a solution of 599 mg of 4-nitrobenzyl (1R,5R,6S)-2-(diphenylphosphoryloxy)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate in dry acetone under an argon atmosphere at 4° C., and 303 mg of sodium iodide was added thereto. The mixture was stirred at the same temperature for 18 hr. Ethyl acetate (20 ml) and 20 ml of semi-saturated brine were added thereto, and the mixture was filtered through Celite and was washed with ethyl acetate. The filtrate was separated, the organic layer was washed with semi-saturated brine, was dried over anhydrous magnesium sulfate, and was filtered, and ethyl acetate was removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (chloroform:methanol=20:1) to give 298 mg of 4-nitrobenzyl (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate.

reactant | 4-hydroxymethyl-5-[(Z)-2-mercaptoethen-1-yl]thiazole | 283 mg | OCC=1N=CSC1\C=C/S | C6H7NOS2
reactant | 4-nitrobenzyl (1R,5R,6S)-2-(diphenylphosphoryloxy)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 599 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)OC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C29H27N2O8P
reactant | sodium iodide | 303 mg | [I-].[Na+]
reactant | Ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | acetone | CC(=O)C | C3H6O
solvent | brine | 20 ml | [Cl-].[Na+].O
catalyst | silver | [Ag] | Ag
product | 4-nitrobenzyl (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate | 298 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S\C=C/C2=C(N=CS2)CO)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C23H23N3O7S2
